US05541182
A mixture of 0.26 g 3-amino-1,3-dihydro-5-phenyl-1-(2-thenoyl)methyl-2H-1,4-benzodiazepin-2-one, 95 mg 3-tolylisocyanate and 5 ml tetrahydrofuran was stirred at room temperature for two hours. The solvent was distilled off from the reaction mixture under reduced pressure, a 1:1 mixture of toluene and diethyl ether (5 ml) was added to the residue, and the crystals were collected by filtration, thus giving 0.2 g of 1-[2,3-dihydro-2-oxo-5-phenyl-1-(2-thenoyl)methyl-1H-1,4-benzodiazepin-3-yl]-3-(3-tolyl)urea.

reactant | 3-amino-1,3-dihydro-5-phenyl-1-(2-thenoyl)methyl-2H-1,4-benzodiazepin-2-one | 0.26 g | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(C2=CC=CS2)=O)=O | C21H17N3O2S
reactant | 3-tolylisocyanate | 95 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[2,3-dihydro-2-oxo-5-phenyl-1-(2-thenoyl)methyl-1H-1,4-benzodiazepin-3-yl]-3-(3-tolyl)urea | 0.2 g | O=C1N(C2=C(C(=NC1NC(=O)NC=1C=C(C=CC1)C)C1=CC=CC=C1)C=CC=C2)CC(C2=CC=CS2)=O | C29H24N4O3S
